US03997564
To a stirred solution consisting of 45 ml. of dioxane and 200 ml. of water is added 27 grams of sodium hydroxide and the whole stirred until complete solution takes place. To this solution is added 17 grams of N-isopropyl-N-(3,4-methylenedioxyphenyl)-N'-benzoyl thiourea. The resulting mixture is heated to reflux for 48 hours and then cooled to 15°C. The resulting white solid is crystallized from benzene to obtain N-isopropyl-N-(3,4-methylenedioxyphenyl)-thiourea melting at 149°-151°C.

reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 27 grams | [OH-].[Na+]
reactant | N-isopropyl-N-(3,4-methylenedioxyphenyl)-N'-benzoyl thiourea | 17 grams | C(C)(C)N(C(=S)NC(C1=CC=CC=C1)=O)C1=CC2=C(C=C1)OCO2 | C18H18N2O3S
solvent | water | O | H2O
product | N-isopropyl-N-(3,4-methylenedioxyphenyl)-thiourea | C(C)(C)N(C(=S)N)C1=CC2=C(C=C1)OCO2 | C11H14N2O2S
